US07276516B2
Add 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC; 98 mg, 0.51 mmol, 1.5 equiv) and 4-(dimethylamino)pyridine (DMAP; 70 mg, 0.57 mmol, 1.7 equiv) to a solution of 4-(3-cyclopentylindole-1-sulfonyl)benzoic acid (126 mg, 0.341 mmol, 1 equiv) and (R)-(−)-tetrahydrofurfurylamine (Aldrich; 140 μL, 140 mg, 1.4 mmol, 4.0 equiv) in anhydr CH2Cl2 (1 mL). After stirring 16 h, transfer the reaction solution to a column of silica gel (80 mm×20 mm dia.) and elute (10-45% EtOAc/hex) to give 24 mg (16%) of 4-(3-cyclopentylindole-1-sulfonyl)-N—[(R)-1-(tetrahydrofuran-2-yl)methyl]benzamide as a white foam. MS (m/e): 452.96 (M+1); 451.14 (M−1).

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.51 mmol, 98 mg, 1.5 equiv | Cl.CN(CCCN=C=NCC)C
reactant | 4-(3-cyclopentylindole-1-sulfonyl)benzoic acid | 0.341 mmol, 126 mg, 1 equiv | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C20H19NO4S
reactant | (R)-(−)-tetrahydrofurfurylamine | 1.4 mmol, 140 μL, 140 mg, 4.0 equiv | C([C@H]1CCCO1)N | C5H11NO
catalyst | 4-(dimethylamino)pyridine | 0.57 mmol, 70 mg, 1.7 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-cyclopentylindole-1-sulfonyl)-N—[(R)-1-(tetrahydrofuran-2-yl)methyl]benzamide | 24 mg, 16% | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NC[C@@H]2OCCC2)C=C1 | C25H28N2O4S
